US07547691B2
2-{5-Bromo-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride
Using the method of 2-{5-fluoro-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-[5-bromo-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide and isolated as a yellow solid. ES+(m/z) 488 (79Br) and 490 (81Br) [M(free base)+H].

reactant | 2-{5-fluoro-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2F)NCCCC2CCN(CC2)C
reactant | 2-[5-bromo-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCC2CCNCC2 | C21H24BrN5OS
product | 2-{5-Bromo-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride | Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCC2CCN(CC2)C | InChI=1S/C22H26BrN5OS.2ClH/c1-24-21(29)15-4-3-5-18-16(15)12-19(30-18)20-17(23)13-26-22(27-20)25-9-6-14-7-10-28(2)11-8-14;;/h3-5,12-14H,6-11H2,1-2H3,(H,24,29)(H,25,26,27);2*1H
